US08975265B2
A mixture of {1-[4-(2-bromo-2-phenyl-acetyl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester [Int-1-A] (4.40 g, 9.91 mmol), methyl 2-aminopyridine-4-carboxylate (3.01 g, 19.8 mmol, 2 equiv) and powdered activated 3A sieves (10 g) in ethanol (37 mL) was heated for 4 h at the reflux temperature. The resulting solution was filtered through a pad of Celite with the aid of CH2Cl2. The resulting solution was separated between CH2Cl2 (50 mL) and a saturated aqueous NaHCO3 solution 50 mL). The organic phase was washed with a saturated aqueous NaCl solution, dried (Na2SO4 anh), and concentrated under reduced pressure. The remaining material was purified using MPLC (Biotage Isolera; 100 g SNAP cartridge: 100% hexane for 1.0 min., gradient to 80% hexane/20% EtOAc over 1.0 min., 80% hexane/20% EtOAc for 2.0 min., gradient to 75% hexane/25% EtOAc over 1.0 min., 75% hexane/25% EtOAc for 2.0 min, gradient to 50% hexane/50% EtOAc over 4.0 min., 50% hexane/50% EtOAc for 5.0 min., gradient to 25% hexane/75% EtOAc over 9.5 min.) to give 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester (2.3 g, 47%):

reactant | {1-[4-(2-bromo-2-phenyl-acetyl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 9.91 mmol, 4.40 g | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C(C(C1=CC=CC=C1)Br)=O)=O | C23H26BrNO3
reactant | methyl 2-aminopyridine-4-carboxylate | 19.8 mmol, 3.01 g, 2 equiv | NC1=NC=CC(=C1)C(=O)OC | C7H8N2O2
solvent | ethanol | 37 mL | C(C)O | C2H6O
product | 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 2.3 g, 47% | COC(=O)C1=CC=2N(C=C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(=O)OC(C)(C)C)C2=CC=CC=C2 | C30H31N3O4
